US08877953B2
A solution of 4-diethylphosphonocrotonic acid (5.0 g), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (5.2 g) and HO-Bt (hydroxybenzotriazole) (4.6 g) in dichloromethane (36.5 g) was stirred for 5 minutes under argon atmosphere. To the above reaction solution was added isobutylamine (4.9 mL), and the reaction solution was stirred at room temperature for 6 hours. A saturated sodium carbonate aqueous solution was added to the resulting reaction solution, and the water layer was extracted with dichloromethane. The combined organic layer was dried over anhydrous sodium sulfate. The organic solvent was concentrated under reduced pressure, and the residue was purified by silica gel chromatography (ethyl acetat→ethyl acetate/methanol=10/1) to give (E)-N-isobutyl-diethylphosphonocrotonic acid amide as colorless viscous oil.

reactant | 4-diethylphosphonocrotonic acid | 5.0 g | C(C)OP(=O)(OCC)C/C=C/C(=O)O | C8H15O5P
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 5.2 g | Cl.C(C)N=C=NCCCN(C)C
reactant | HO-Bt | 4.6 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | isobutylamine | 4.9 mL | C(C(C)C)N | C4H11N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 36.5 g | ClCCl | CH2Cl2
product | (E)-N-isobutyl-diethylphosphonocrotonic acid amide | C(C(C)C)NC(/C(=C\C)/P(=O)(OCC)OCC)=O | C12H24NO4P
